US04959470
Solution A 1.99 g benzyloxycarbonyl-azetidinon and 1.29 g chlorosulfonyl isocyanate were stirred for 1 hour in 50 ml ethylacetate at 5° C. A solution of (S)-[1-[[chlorosulfonyl)amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester was obtained.

reactant | benzyloxycarbonyl-azetidinon | C(C1=CC=CC=C1)OC(=O)N1C(CC1)=O | C11H11NO3
reactant | chlorosulfonyl isocyanate | 1.29 g | ClS(=O)(=O)N=C=O | CClNO3S
solvent | ethylacetate | 50 ml | C(C)OC(C)=O | C4H8O2
product | carbamic acid, phenylmethyl ester | C(N)(OCC1=CC=CC=C1)=O | C8H9NO2
